US07709500B2
Step 1: 2-[[(2R)-2-methyloxiranyl]methyl]-1H-isoindole-1,3(2H)-dione
To a solution of (2S)-(2-methyloxiran-2-yl)methyl 3-nitrobenzenesulphonate (1.913 g, 7 mmoles) in dry dimethylformamide (15 ml), was added potassium phthalimide (1.304 g, 7 mmoles). The mixture was stirred at 50° C. for 5 h and then cooled to room temperature. The resulting mixture was partitioned between ethyl acetate and water. The aqueous phase was washed with ethyl acetate (2×100 ml) and the combined organic extracts were washed with water (3×100 ml), saturated brine solution, dried over sodium sulfate and concentrated in vacuo to leave a crude orange wax. Purification by chromatography (silica, 20% ethyl acetate in iso-hexane) afforded the subtitle compound as a white solid (0.864 g).

reactant | (2S)-(2-methyloxiran-2-yl)methyl 3-nitrobenzenesulphonate | 7 mmoles, 1.913 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@]1(OC1)C | C10H11NO6S
reactant | potassium phthalimide | 7 mmoles, 1.304 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[[(2R)-2-methyloxiranyl]methyl]-1H-isoindole-1,3(2H)-dione | 0.864 g | C[C@@]1(OC1)CN1C(C2=CC=CC=C2C1=O)=O | C12H11NO3
